US06878778B1
3 g (4.08 mmol) of 2,2-bis-(3-nitro-4-tosyloxyphenyl)hexafluoropropane was dissolved in 70 ml of butyl acetate, followed by moderately heating and refluxing. Then 5.26 ml (40.8 mmol) of n-methylbenzylamine was added dropwise into the solution, and after heating and refluxing were continued for 12 hours, the solution was cooled to room temperature. After 20 ml of dilute hydrochloric acid was added and extraction with ethyl acetate was carried out two times, an organic layer was washed with dilute hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and saturated brine. After the washed organic layer was dried with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The obtained liquid product was separated by silica gel chromatography (hexane/ethyl acetate=4/1, hexane/dichloromethane=1/1) to obtain 2.1 g (yield: 81%) of 2,2-bis-[3-nitro-4(N-methyl-N-benzylamino)phenyl]hexafluoropropane in the form of yellow solid.

reactant | 2,2-bis-(3-nitro-4-tosyloxyphenyl)hexafluoropropane | 4.08 mmol, 3 g | [N+](=O)([O-])C=1C=C(C=CC1OS(=O)(=O)C1=CC=C(C)C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)OS(=O)(=O)C1=CC=C(C)C=C1)[N+](=O)[O-] | C29H20F6N2O10S2
reactant | n-methylbenzylamine | 40.8 mmol, 5.26 ml | CNCC1=CC=CC=C1 | C8H11N
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | butyl acetate | 70 ml | C(C)(=O)OCCCC | C6H12O2
product | 2,2-bis-[3-nitro-4(N-methyl-N-benzylamino)phenyl]hexafluoropropane | 2.1 g, yield: 81% | [N+](=O)([O-])C=1C=C(C=CC1N(CC1=CC=CC=C1)C)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N(C)CC1=CC=CC=C1)[N+](=O)[O-] | C31H26F6N4O4
